US05556977
4-oxo-4-[4-[4-(4-pyridyl)piperazin-1-yl]phenyl]aminobutyric acid
To a solution of 1-(4-aminophenyl)-4-(4-pyridyl)piperazine (100 mg) in DMF (8 ml) was added succinic anhydride (79 mg). The reaction mixture was stirred at room temperature for 2.5 hr and a precipitate was collected, washed with DMF and ethanol, then dried to give the title compound (106 mg) as a beige-coloured solid: m.p. 263°-264° C.; NMR (d6 -DMSO+CF3CO2H) δ2.68 (4H, m), 3.80 (4H, m), 4.19 (4H, m), 7.20 (2H, d), 7.56 (2H, d), 7.82 (2H, d), 8.21 (2H, d), 9.62 (1H, s); m/Z 355 (M+H)+ ; calculated for C19H22N4O3. 0.4 H2O: C, 63.1%; H, 6.36%; N, 15.5%; found: C, 63.1%; H, 6.4%; N, 15.7%.

reactant | 1-(4-aminophenyl)-4-(4-pyridyl)piperazine | 100 mg | NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C15H18N4
reactant | succinic anhydride | 79 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 4-oxo-4-[4-[4-(4-pyridyl)piperazin-1-yl]phenyl]aminobutyric acid | 106 mg | O=C(CCC(=O)O)NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C19H22N4O3
